Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Cough, fevers, chills
 
Major Surgical or Invasive Procedure:
Bronchoscopy (___)

 
History of Present Illness:
Mrs ___ is a ___ year old female with a history of multiple 
myeloma s/p autologous transplant day 276 on revlamid who 
presented from clinic with fevers, cough and fatigue found to 
have RLL penumonia.

Previously discharged from ___ on ___ after admission for 
influenze. At that time, she was discharged with a total five 
day course of oseltamivir and levofloxacin.

Since discharge, Mrs ___ felt well until three days ago. She 
then began exhibiting symptoms three days prior with the onset 
of fever. Since then, she has had chills, cough, fatigue with a 
max temp of 102.4.  

Today, seen at cardiologist office this morning where she was 
noted to be ill appearing and with a non-productive cough. Had 
normally scheduled clinic appointment this morning, where she 
was noted to have a temperature of 99.7, but with oxygen 
saturation of 99% and in no respiratory distress.  In clinic, 
she received 2g cefepime, tamiflu 75mg PO, and 1L NS.

Denies headache, vision changes, sinus pressure, sore throat, 
rhinorrhea, myalgias, arthralgias. No rashes. No shortness of 
breath or chest pain. No GI upset, diarrhea.

Review of Systems:  
(+) Per HPI.
Denies  night sweats, shortness of breath, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Disease discovered in ___ after identification of 
proteinuria led to the finding of serum monoclonal protein. Bone 
marrow biopsy demonstrated ___ involvement of plasma cell 
dyscrasia. Baseline labs with normal and calcium but significant
anemia. Skeletal survey without lytic lesions. Underwent 4 
cycles of RVD and had a VGPR.

___: High dose Cytoxan and stem cell mobilization.
___: (Day 0) Autologous HSCT with melphalan preparatory 
regimen
___: Began chronic suppressive Revlimid and monthly Zometa

PAST MEDICAL/SURGICAL HISTORY:  
Asthma
HTN
TAH
Tubal ligation
 
Social History:
___
Family History:
Mother died of CRF complicated by CAD at age ___. Father died of 
laryngeal cancer at ___. One sister with MM. One sister with 
ovarian ___, One brother with liver CA. 10 healthy siblings.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 99.7  BP: 131/69  HR: 93  RR: 18  SpO2: 99%/RA
Gen: Pleasant, calm, NAD, mild incr WOB  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: No JVP, no thyromegally Normal carotid upstroke without 
bruits. 
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. No MRG. DP and radial 
pulses 2+.    
LUNGS: Mild incr WOB. CTAB. Mild rales in RLL, faint. No wheezes 
or rhonchi. No acc muscle use. 
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. No clubbing/cyanosis 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3.
LINES: R forearm PIV 22G

DISCHARGE PHYSICAL EXAM:
24H I+O: ___
Gen: Pleasant, calm, NAD  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
LYMPH: No cervical or supraclav LAD
CV: RRR nl S1,S2. No MRG. DP and radial pulses 2+.    
LUNGS: CTAB. No w/r/r No accessory muscle use. EWOB
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. No clubbing/cyanosis. Phlebitis of left 
arm improving, less tender to touch.
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: AAOx3
LINES: R forearm PIV

 
Pertinent Results:
ADMISSION LABS:
___ 08:00AM BLOOD WBC-6.5# RBC-3.34* Hgb-10.3* Hct-31.6* 
MCV-95 MCH-30.9 MCHC-32.7 RDW-15.7* Plt ___
___ 08:00AM BLOOD Neuts-62.4 ___ Monos-5.1 Eos-2.5 
Baso-0.5
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD UreaN-8 Creat-0.9 Na-139 K-3.8 Cl-104 
HCO3-26 AnGap-13
___ 08:00AM BLOOD Glucose-107*
___ 08:00AM BLOOD ALT-18 AST-21 LD(LDH)-212 AlkPhos-59 
TotBili-1.0
___ 08:00AM BLOOD TotProt-7.3 Albumin-4.1 Globuln-3.2 
Calcium-8.9 Phos-1.8* Mg-1.9 UricAcd-4.6
___ 08:00AM BLOOD PEP-PND FreeKap-PND FreeLam-PND IgG-1274 
IgA-281 IgM-25* IFE-PND

IMAGING:
CXR ___:
FINDINGS: Since ___, the new focal opacity in the right 
lower lobe is consistent with pneumonia. The previously 
described new small focal consolidation the right upper lobe, is 
less apparent today, but still present. The left lung is clear. 
No pleural effusion, pulmonary edema, or pneumothorax. The heart 
is top-normal in size and unchanged. The mediastinal contours 
and hila are normal. 
  
IMPRESSION:  
1. New right lower lung pneumonia. 
2. Right upper lobe opacity, which may be a nodule, less 
apparent compared to ___, but new since ___. A 
follow-up chest radiograph is recommended in 6 weeks to evaluate 
for resolution. 

CT CHEST ___:
1. Multifocal pneumonia, most likely viral bump mycoplasma is 
also possible. Follow-up CT of the chest is recommended in 3 
months to assess for resolution and to exclude malignancy. 
2. 1.7-cm possible left breast cyst. Recommend further 
evaluation with 
mammography and ultrasound. 
3. 9-mm hypodensity in the left thyroid lobe. Recommend further 
evaluation with thyroid ultrasound. 
4. Small hiatal hernia. 
5. Please refer to the dedicated report for the CT abdomen and 
pelvis exam performed on the same day for a description of the 
sub-diaphragmatic findings. 

BAL CYTOLOGY ___: NEGATIVE FOR MALIGNANT CELLS

UE U/S ___:
No evidence of deep vein thrombosis in the right upper 
extremity. 

DISCHARGE LABS:
___ 06:15AM BLOOD WBC-4.6 RBC-3.13* Hgb-9.7* Hct-29.7* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-15.4 Plt ___
___ 06:15AM BLOOD Neuts-58.9 ___ Monos-7.6 Eos-4.8* 
Baso-0.5
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD ___ PTT-31.1 ___
___ 06:15AM BLOOD Glucose-109* UreaN-6 Creat-0.9 Na-140 
K-4.4 Cl-106 HCO3-25 AnGap-13
___ 06:15AM BLOOD ALT-8 AST-14 LD(LDH)-230 AlkPhos-59 
TotBili-0.3
___ 06:15AM BLOOD Albumin-3.8 Calcium-8.3* Phos-1.6* Mg-2.4
 
Brief Hospital Course:
PATIENT
Mrs ___ is a ___ year old female with a history of multiple 
myeloma s/p autologous transplant day 276 on revlamid who 
presented from clinic with fevers, cough and fatigue found to 
have RLL penumonia.

ACUTE ISSUES
# Pneumonia: Mrs ___ was initially started on vancomycin 
and cefepime. Her home revlamid was held. As she continued to be 
febrile after 48 hours of coverage, azithromycin was added and a 
CT chest was obtained. CT chest showed multifocal pneumonia. 
With ongoing fevers, pulmonary was consulted and a BAL 
performed. No culprit lesion was identified and fluid samples 
sent for culture were negative. All other cultures, including 
blood, urine, and viral returned negative. Patient started on 
voriconazole and defervesed after 48 hours on fungal treatment 
on hospital day #6. Vancomycin, cefepime, and tamiflu were 
discontinued at that time; and patient was observed overnight on 
voriconazole and azitrhomycin. As patient was clinically well, 
had never had any signs of respiratory compromise or hypoxia, 
she was sent home on azithromycin with intent for close 
followup. Given findings on chest CT, pulmonary recommendations 
were to send for hypersensivity pneumonitis panel, which was 
pending at time fo discharge. Revlamid was restarted at time of 
discharge.

CHRONIC ISSUES
# Multiple Myeloma: Revlamid was ___ at time of admission. IgG 
subtype and T-Cell lymphocyte panel were obtained. Returned 
normal, although C4% percentage slightly below normal. There was 
no indication for IVIG, and home acyclovir prophylaxis was 
continued while patient in house. Revlamid restarted at time of 
discharge.

# Neuropathy: Home amitriptyline, gabapentin, and duloxetine 
continued in house.

# Systolic Dysfunction: Home carvedilol continued, and no 
furosemide given

TRANSITIONAL ISSUES:
[ ] Patient to complete a course of azithromycin; duration to be 
determined by outpatient oncologist at follow up clinic visit.
[ ] A 1.7-cm possible left breast cyst was incidentally 
identified on CT imaging. It is recommended that there be 
further outpatient evaluation with mammography and ultrasound. 
[ ] A 9mm hypodensity was incidentally identified in the left 
thyroid lobe on CT imaging. Recommend further outpatient 
evaluation with a thyroid ultrasound. 
[ ] Mrs ___ should continue to wearing a face mask while 
at work
[ ] Please follow up the pending hypersensitivity pneumonitis 
panel
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO QHS 
3. Carvedilol 6.25 mg PO DAILY 
4. Duloxetine 30 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. Pantoprazole 40 mg PO Q12H 
7. Acetaminophen ___ mg PO Q6H:PRN Fever, pain 
8. Aspirin 81 mg PO DAILY 
9. Lenalidomide 10 g     
10. Furosemide 20 mg PO DAILY:PRN Overload 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN Fever, pain 
2. Acyclovir 400 mg PO Q8H 
3. Amitriptyline 25 mg PO QHS 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 6.25 mg PO DAILY 
6. Duloxetine 30 mg PO DAILY 
7. Gabapentin 600 mg PO TID 
8. Pantoprazole 40 mg PO Q12H 
9. Furosemide 20 mg PO DAILY:PRN Overload 
10. Lenalidomide 10 g     
11. Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pneumonia

Secondary Diagnosis:
Multiple Myeloma
Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital because you were havig fevers, 
chills and a cough. You were diagnosed with a pneumonia. You 
were treated with intravenous fluids, antibiotics and anti-viral 
medications. Because your fever did not respond to our initial 
treatments, you underwent a procedure called a bronchoscopy. 
Afterwards, you were started on anti-fungal medications and your 
fever came down. You continued to have fevers while in the 
hospital and so you were observed for a period of time even 
after the fevers stopped. You will be discharged home on a 
seperate antibiotic (azithromycin). Please always wear a mask 
while working in the emergency department in the future. If you 
have a return of your symptoms or develop any of the warning 
signs listed below, please seek immediate medical attention.

It was a pleasure of taking care of you!
Your ___ Care Team
 
Followup Instructions:
___